* Extracted by KLayout with SG13G2 LVS runset on : 08/04/2026 03:29

.SUBCKT TOP
M$1 \$2 \$17 \$3 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$2 \$2 \$4 \$5 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$3 \$6 \$5 \$7 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$4 \$8 \$4 \$7 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$5 \$2 \$3 \$6 \$1 sg13_lv_nmos L=0.15u W=3u AS=1.02p AD=1.02p PS=6.68u
+ PD=6.68u
M$6 \$2 \$17 \$8 \$1 sg13_lv_nmos L=0.15u W=3u AS=1.02p AD=1.02p PS=6.68u
+ PD=6.68u
M$7 \$2 \$17 \$3 \$23 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$8 \$2 \$4 \$5 \$23 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$9 \$18 \$4 \$7 \$23 sg13_lv_pmos L=0.13u W=0.15u AS=0.26025p AD=0.1005p
+ PS=1.91u PD=1.34u
M$10 \$2 \$3 \$18 \$23 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.26025p
+ PS=3.68u PD=1.91u
M$11 \$2 \$5 \$18 \$23 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.27p PS=2.18u
+ PD=1.88u
M$12 \$18 \$17 \$7 \$23 sg13_lv_pmos L=0.15u W=1.5u AS=0.27p AD=0.51p PS=1.88u
+ PD=3.68u
.ENDS TOP
